US07601856B2
Following the procedure of Example 1, tetrahydro-dibenzofuran-2-ylamine (0.78 g, 4.1 mmol), phenylacetyl chloride (1.1 mL, 8.2 mmol), and triethylamine (1.8 mL, 13 mmol) in tetrahydrofuran (10 mL) provided 2-phenyl-N-(6,7,8,9-tetrahydro-dibenzofuran-2-yl)-acetamide (0.70 g). Mp 180-181° C.; Anal. Calcd. for C20H19NO2: C, 78.66; H, 6.27; N, 4.59; Found: C, 78.53; H, 6.13; N, 4.75.

reactant | tetrahydro-dibenzofuran-2-ylamine | 4.1 mmol, 0.78 g | C1C(CCC=2OC3=C(C21)C=CC=C3)N | C12H13NO
reactant | phenylacetyl chloride | 8.2 mmol, 1.1 mL | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
reactant | triethylamine | 13 mmol, 1.8 mL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 2-phenyl-N-(6,7,8,9-tetrahydro-dibenzofuran-2-yl)-acetamide | 0.70 g | C1(=CC=CC=C1)CC(=O)NC1=CC2=C(OC3=C2CCCC3)C=C1 | C20H19NO2
